US03966931
A suspension of sodium hydride (1.11 g.) in anhydrous tetrahydrofuran (120 cc.) is treated for 20 minutes at about 10°-15°C. with 6-(5-chloropyrid-2-yl)-5-hydroxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole (11.6 g.), and a solution of 1-chlorocarbonyl-4-ethylpiperazine (20.4 g.) in anhydrous tetrahydrofuran (160 cc.) is then added, at 5°C. The reaction mixture is stirred for 4 hours at 5°C. After evaporating the solvent under reduced pressure (20 mm.Hg), the residue is dissolved in diethyl ether (400 cc.). The ether solution is washed twice with ice-cold normal sodium hydroxide solution (total 300 cc.) and three times with distilled water (total 300 cc.), treated with decolourising charcoal (0.2 g.), dried over anhydrous sodium sulphate, filtered and evaporated. The residue (13.8 g.; m.p. 140°C.) is dissolved in boiling ethanol (25 cc.). After cooling for three hours at 2°C, the crystals which have appeared are filtered off, washed twice with ice-cold ethanol (total 20 cc.) and dried under reduced pressure (20 mm.Hg). 6-(5-Chloropyrid-2-yl)-5-(4-ethylpiperazin-1-yl)carbonyloxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole (4.9g.), melting at 163°C, is thus obtained.

reactant | sodium hydride | 1.11 g | [H-].[Na+]
reactant | 6-(5-chloropyrid-2-yl)-5-hydroxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole | 11.6 g | ClC=1C=CC(=NC1)N1C(C2=C(C1O)SCCS2)=O | C11H9ClN2O2S2
reactant | 1-chlorocarbonyl-4-ethylpiperazine | 20.4 g | ClC(=O)N1CCN(CC1)CC | C7H13ClN2O
solvent | tetrahydrofuran | 120 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 cc | O1CCCC1 | C4H8O
product | 6-(5-Chloropyrid-2-yl)-5-(4-ethylpiperazin-1-yl)carbonyloxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole | 4.9g | ClC=1C=CC(=NC1)N1C(C2=C(C1OC(=O)N1CCN(CC1)CC)SCCS2)=O | C18H21ClN4O3S2
